Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
nausea/vomiting
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
This is a ___ yo G7P4 at approximately 14 weeks gestation (per 
patient) who presents with recurrent nausea and vomiting today. 
She states that she generally has nausea with one episode of 
emesis every morning, but today has had 4 episodes of emesis 
with yellow mucus and some bright red blood. She has had 
decreased appetite and decreased PO intake over the past ___ 
days. Denies sick contacts. No vomiting since arrival, last 
episode at 1530. She denies fever, chills, CP, SOB, diarrhea, or 
constipation.

She states that she had an U/S approximately 2 weeks ago at 
___ at which time she was told she was 12 weeks 
pregnant. LMP in ___ (unsure of exact date). She has her 
first prenatal visit at the end of this month with Dr. 
___.

Of note, she reports a h/o domestic violence. She and her 
children are currently living with her sister and her partner 
knows where she is. She has stayed at a DV shelter in the past 
and is looking for one now.
 
Past Medical History:
POBHx: G7P4
- TAB x 2
- Emergent C/S in ___ for NRFHT
- rLTCS x 3

PGynHx: h/o abnl paps

PMH: 
- Asthma, no recent hospitalizations, no intubations
- Anemia, no medication

PSH:
- Cholecystectomy
- C/S x 4
- TAB x 2
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
(on admission)
VITALS: T 97.8, HR 74, BP 104/69, RR 18, O2 99% RA
GENERAL: comfortable, NARD
CV: RRR, no M/R/G
LUNGS: CTAB
ABDOMEN: Obese, +BS, NTND, no rebound, no guarding
EXTREMITIES: WWP. Nontender, no edema.

U/A: neg except for 80 ketones

Bedside TAUS: FHR 167/min. CRL 4.21 cm c/w 11w1d gestation
 
Pertinent Results:
___ 11:00AM BLOOD WBC-4.3 RBC-4.07* Hgb-9.2* Hct-29.2* 
MCV-72* MCH-22.7* MCHC-31.6 RDW-17.1* Plt ___
___ 06:50PM BLOOD WBC-6.9 RBC-4.12* Hgb-9.3* Hct-29.5* 
MCV-72* MCH-22.7* MCHC-31.7 RDW-17.7* Plt ___
___ 11:00AM BLOOD Glucose-89 UreaN-4* Creat-0.5 Na-139 
K-3.3 Cl-105 HCO3-26 AnGap-11
___ 06:50PM BLOOD Glucose-75 UreaN-6 Creat-0.6 Na-137 
K-3.1* Cl-102 HCO3-24 AnGap-14
___ 11:00AM BLOOD Calcium-8.9 Phos-3.0 Mg-1.9
___ 06:50PM BLOOD Calcium-9.2 Phos-3.4 Mg-1.9
___ 06:50PM BLOOD HBsAg-NEGATIVE
___ 06:50PM BLOOD HCV Ab-NEGATIVE
___ 01:52AM URINE Color-Straw Appear-Clear Sp ___
___ 07:24PM URINE Color-Yellow Appear-Hazy Sp ___
___ 01:52AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 07:24PM URINE Blood-NEG Nitrite-NEG Protein-30 
Glucose-NEG Ketone-80 Bilirub-NEG Urobiln-2* pH-6.5 Leuks-NEG
___ 07:24PM URINE RBC-<1 WBC-2 Bacteri-MOD Yeast-NONE 
Epi-25

___ early OB U/S: Single live intrauterine pregnancy with 
estimated sonographically gestational age of 11 weeks and 3 
days. ___ ___ y/o G7P4 admitted at 11w3d with nausea/vomiting and history 
of domestic violence; currently looking for shelter placement.
.
Ms ___ was admitted for IV hydration and antiemetics. By 
hospital day #2, she was tolerating a regular diet. Social 
services and the ___ Violence Prevention and Recovery met 
with her to attempt to find housing. Shelter placement was 
confirmed in ___. She was discharged on hospital day 
2 to the shelter, in good condition with follow-up.
 
Medications on Admission:
Flovent
Albuterol
 
Discharge Medications:
1. B complex-vitamin C-folic acid 1 mg capsule Sig: One (1) Cap 
PO DAILY (Daily).
Disp:*90 Cap(s)* Refills:*4*
2. Iron (ferrous sulfate) 325 mg (65 mg iron) tablet Sig: One 
(1) tablet PO once a day: take separately from prenatal vitamin.
Disp:*90 tablet(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
pregnancy at 11 weeks gestation
nausea/vomiting

 
Discharge Condition:
stable

 
Discharge Instructions:
Ms ___, you were admitted to the hospital for nausea/vomiting. 
You were treated with IV fluids and medication to help control 
your nausea. An ultrasound was performed on ___ which 
confirmed that your gestational age is 11 weeks 3 days, giving 
you a due date of ___.
.
Social services and the ___ Violence Prevention and 
Recovery met with you to assist in finding safe housing.
 
Followup Instructions:
___